US07498337B2
2-bromo-1-(2,6-difluorophenyl)ethanone
To a solution of 1-(2,6-difluorophenyl)ethanone (10.0 g) in diethyl ether (50 mL) was added anhydrous aluminum chloride (86 mg) and the mixture was stirred for 5 min. Bromine (3.3 mL) was added dropwise at 10-15° C. After stirring at room temperature for 2 hr, the mixture was poured into water, and the mixture was extracted with ethyl acetate. The obtained organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, concentrated under reduced pressure to give the title compound as a pale-yellow oil (yield 15.2 g, about 100%).

reactant | 1-(2,6-difluorophenyl)ethanone | 10.0 g | FC1=C(C(=CC=C1)F)C(C)=O | C8H6F2O
reactant | aluminum chloride | 86 mg | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | Bromine | 3.3 mL | BrBr | Br2
reactant | water | O | H2O
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
product | 2-bromo-1-(2,6-difluorophenyl)ethanone | yield 15.2 g, about 100% | BrCC(=O)C1=C(C=CC=C1F)F | C8H5BrF2O
